US07176205B2
5′-Bromo-2′-chloro-2-methyl-[3,4′]bipyridinyl
A mixture of 2.73 g (11.3 mmol) trifluoro-methanesulfonic acid 2-methyl-pyridin-3-yl ester, 3.16 g (12.4 mmol) bis(pinacolato)diboron, 3.33 g (33.9 mmol) potassium acetate and 0.46 g (0.56 mmol) dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct in 75 ml N,N-dimethylformamide was heated at 80° C. over night under argon. After cooling to room temperature 5.40 g (17.0 mmol) 5-bromo-2-chloro-4-iodo-pyridine, another portion of 0.46 g (0.56 mmol) dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct and 30 ml of a deoxygenated 2 M aqueous solution of sodium carbonate were added. The reaction mixture was heated at 80° C. for 4.5 h. After cooling to room temperature the mixture was diluted with water and extracted with three portions of tert-butyl methyl ether. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Flash column chromatography gave 1.00 (31%) of the title compound as a light yellow solid.

reactant | trifluoro-methanesulfonic acid 2-methyl-pyridin-3-yl ester | 11.3 mmol, 2.73 g | CC1=NC=CC=C1OS(=O)(=O)C(F)(F)F | C7H6F3NO3S
reactant | bis(pinacolato)diboron | 12.4 mmol, 3.16 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 33.9 mmol, 3.33 g | C(C)(=O)[O-].[K+]
reactant | 5-bromo-2-chloro-4-iodo-pyridine | 17.0 mmol, 5.40 g | BrC=1C(=CC(=NC1)Cl)I | C5H2BrClIN
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.56 mmol, 0.46 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.56 mmol, 0.46 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 5′-Bromo-2′-chloro-2-methyl-[3,4′]bipyridinyl | BrC=1C(=CC(=NC1)Cl)C=1C(=NC=CC1)C | C11H8BrClN2
